US04578381
34 Grams of 3-formylcarbostyril was suspended in 800 ml of methanol, and 7.4 g of sodium borohydride was added gradually thereto under ice-cooled condition with stirring. The reaction mixture was further stirred under ice-cooling for 3 hours. The precipitated crystals were collected by filtration and recrystallized from methanol to obtain 33.2 g of 3-hydroxymethylcarbostyril in the form of colorless prism-like crystals.

reactant | 3-formylcarbostyril | C(=O)C=1C(NC2=CC=CC=C2C1)=O | C10H7NO2
reactant | sodium borohydride | 7.4 g | [BH4-].[Na+]
solvent | methanol | 800 ml | CO | CH4O
product | 3-hydroxymethylcarbostyril | 33.2 g | OCC=1C(NC2=CC=CC=C2C1)=O | C10H9NO2
